Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old ___ speaking woman, with
history of cerebral aneurysm in ___ s/p clipping,
hypothyroidism, and HTN, presenting with 2 months of 
intermittent
chest pain at rest and with exertion. 

History obtained with ___ interpreter. Patient notes that
episodes of left-sided chest pressure/'pinching' generally last
several minutes. Patient notes that pain is improved with
palpation of the chest, though occasionally palpation can
reproduce pain. Pain can radiate towards back of left side. Some
associated diaphoresis as well as nausea and SOB. No vomiting.
While pain can happen at rest, it is worse with exertion, notes
pain with climbing stairs, bending over, moving around the 
house.
Prior to ED, patient was helping set up a party she was
increasingly having symptoms, worse than typical, so came to the
ED. Notes palpations during episodes.

Of note, patient was admitted 7 months ago with L shoulder pain,
was ruled out by trop and EKG for ACS and was found to have
calcific tendonitis of L shoulder. She had steroid injection in
___, with improvement in pain. She notes the last two months
have been of a different type of pain.

In the ED initial vitals were: 97.7 75 146/95 17 100% RA  
Exam:
RRR, no murmurs
lungs clear 
EKG: NSR at 68, normal intervals, axis, T wave flatterning, no
acute ST changes or TWI.  
Labs/studies notable for: 
Normal electrolytes
CBC: WBC 8.6, Hgb/Hct 12.9/37.9, plts 315
Trop T < 0.01 x 3
Ca/P/Mg within normal limits

CXR:
IMPRESSION: Mild basilar atelectasis without definite focal
consolidation. No pulmonary edema. 

Patient was given: 
PO Aspirin 324 mg
PO/NG Losartan Potassium 25 mg   
PO/NG Levothyroxine Sodium 75 mcg   
SL Nitroglycerin SL .4 mg  
PO Acetaminophen 1000 mg

Vitals on transfer: HR 66 165/84 16 97% RA  

On the floor patient currently has no chest pain. She notes
typically has ___ episodes per day for a few minutes each. She
has no current SOB, nausea, abd pain, dysuria, recent illness,
fevers/chills, diarrhea, leg swelling. She additionally notes
that with these episodes she has some blurry vision and
occasionally headaches.  

REVIEW OF SYSTEMS:  
Negative aside from as mentioned above
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension   
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- calcific tendonitis - left shoulder (h/o frozen shoulder) s/p
injection in ___
- history of cerebral aneurysm in ___ status post 
clipping w/ recovery  
- hypothyroidism  
- h/o transaminitis
 
Social History:
___
Family History:
mother: diabetes, liver cancer. father: prostate cancer. sister: 

breast cancer  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 97.6 139/76 80 16 97% RA   
GENERAL: NAD, Alert and oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. 
NECK: Supple without elevated JVP   
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts.
CHEST: Pain with palpation on left side of chest wall. Patient
says this is more intense than normal pain, and different in
quality, but also feels like pressure  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: No c/c/e. L shoulder with limited motion, but can
lift above head, can not externally rotate without pain
PULSES: Distal pulses palpable and symmetric 

DISCHARGE PHYSICAL EXAM
======================= 
VS: AFEBRILE 110-130S/70S 70S 16 97% RA
GENERAL: NAD, Alert and oriented x3. Mood, affect appropriate.  
NECK: Supple without elevated JVP   
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts.
CHEST: unable to reproduce pain on palpation
LUNGS: CTA b/l
ABDOMEN: Soft, NTND. 
EXTREMITIES: No ___ edema
 
Pertinent Results:
ADMISSION LABS
===============

___ 09:20PM BLOOD WBC-8.6 RBC-4.50 Hgb-12.9 Hct-37.9 MCV-84 
MCH-28.7 MCHC-34.0 RDW-11.8 RDWSD-35.7 Plt ___
___ 09:20PM BLOOD Glucose-147* UreaN-14 Creat-0.6 Na-142 
K-3.6 Cl-100 HCO3-24 AnGap-18
___ 01:50PM BLOOD ALT-21 AST-18 LD(LDH)-131 AlkPhos-96 
TotBili-0.4
___ 09:20PM BLOOD cTropnT-<0.01
___ 03:45AM BLOOD cTropnT-<0.01
___ 01:50PM BLOOD cTropnT-<0.01
___ 01:50PM BLOOD TSH-0.24*

DISCHARGE LABS
=================
___ 06:00AM BLOOD WBC-6.0 RBC-4.41 Hgb-12.8 Hct-37.5 MCV-85 
MCH-29.0 MCHC-34.1 RDW-11.9 RDWSD-36.3 Plt ___
___ 06:00AM BLOOD Glucose-100 UreaN-11 Creat-0.6 Na-142 
K-4.1 Cl-102 HCO3-25 AnGap-15
___ 06:00AM BLOOD Calcium-9.7 Phos-4.7* Mg-2.0

CXR ___
Mild basilar atelectasis without definite focal consolidation.  
No pulmonary
edema.

PMIBI ___
IMPRESSION:
1. Normal myocardial perfusion.
2. Normal left ventricular cavity size and systolic function.  
 
Brief Hospital Course:
___ woman with a history of cerebral aneurysm in ___, status post clipping w/ recovery, hypothyroidism, HTN, and 
hx of left frozen shoulder and calcific tendonitis, who 
presented to the ED with atypical chest pain, admitted for pMIBI 
study, which was found to be normal. Patient without any chest 
pain on discharge.

#Chest Pain
Patient presenting with brief episodes atypical chest pain 
(often improved with massaging over area) although also at times 
exertional in nature. Trops negative x3. Patient had a 
pharmacological stress test which revealed normal myocardial 
perfusion and ejection fraction. Suspect chest pain likely 
musculoskeletal in nature.She did not have any further episodes 
of chest pain while inpatient. 

#Bilateral shoulder pain
Continued Tylenol as needed for pain

#Iatrogenic hyperthyroidism
History of hypothyroidism with suppressed TSH during last few 
results since ___. TSH on admission of 0.24. Decreased 
levothyroxine from 75mcg to 50mcg daily on discharge.

#Hypertension
Continued home losartan

TRANSITIONAL ISSUES
======================
[]downtitrated levothyroxine to 50mcg. Please check TSH in 6 
weeks
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
3.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Non-cardiac chest pain

SECONDARY:
Shoulder Pain
Iatrogenic hyperthyroidism
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. 

Why you were admitted?
 - You were admitted because you were having some pain in your 
chest and shoulder. 

What we did for you?
 - You received a stress test for your heart and it was normal. 
Therefore your chest pain is unlikely to be related to your 
heart, which is great news.
 - You did not have any further episodes of chest pain while in 
the hospital.
 - Your previous pain may be related to muscle or bone issues.
 
 
Followup Instructions:
___